US07691861B2
Preparation of (2-Chloro-hydroxy-6-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetic acid ethyl ester
A solution of EtOAc (7.2 ml, 73.96 mmol) in THF (20 ml) is slowly added under an atmosphere of argon at −78° C. to a solution of lithium diisopropylamine (prepared from 10.5 ml of diisopropylamine (73.96 mmol) and 46.2 ml of 1.6 M n-BuLi in hexane (73.96 mmol)) in THF (20 ml). After stirring at −78° C. for 30 minutes, a solution of 2-chloro-6-methoxy-3,4-dihydro-2H-naphthalen-1-one (7.79 g, 36.98 mmol) in THF (20 ml) is slowly added during 30 minutes. The reaction mixture is stirred at −78° C. for 24 h. TLC analysis indicates complete conversion of starting material. The reaction mixture is diluted with EtOAc and poured into a sat aqueous solution of NH4Cl. The organic layer is separated and washed with brine. After drying over Na2SO4, the solvent is removed. Purification by FCC (hexane/EtOAc 920:80 to 880:120) yields the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.22 (t, J=9 Hz, 3H), 2.33-2.41 (m, 2H), 2.80-3.12 (m, 4H); 3.12 (s, 1H), 3.78 (s, 3H), 4.12 (q, J=9 Hz, 2H), 5.01-5.04 (m, 1H), 6.60-6.62 (m, 1H), 6.78-6.82 (m, 1H), 7.52 (d. J=10 Hz, 1H).

reactant | lithium diisopropylamine | 73.96 mmol, 1.6 M, 10.5 ml | C(C)(C)NC(C)C.[Li]
reactant | 2-chloro-6-methoxy-3,4-dihydro-2H-naphthalen-1-one | 36.98 mmol, 7.79 g | ClC1C(C2=CC=C(C=C2CC1)OC)=O | C11H11ClO2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | EtOAc | 73.96 mmol, 7.2 ml | CCOC(=O)C | C4H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (2-Chloro-hydroxy-6-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-acetic acid ethyl ester | C(C)OC(CC1(C(CCC2=CC(=CC=C12)OC)Cl)O)=O | C15H19ClO4
